US07141637B2
d) [3-(4-tert-butyl-phenyl)-2,5-dimethyl-6H-cyclopenta[b]thiophen-6-yl]-[4-(4-tert-butyl-phenyl)-2-isopropyl-1H-inden-1-yl]-dimethyl-silane
To a solution containing 5.64 g (20 mmol) 3-(4-tert-Butyl-phenyl)-2,5-dimethyl-4H-cyclopenta[b]thiophene dissolved in 50 ml of diethyl ether was added a 2.5 M solution of n-butyllithium in hexane (20 mmol, 8 ml). A catalytic amount of copper cyanide was added (0.08 g), then the reaction mixture was stirred for 3 h. The temperature was reduced to −78° C., then a solution containing 7.66 g (20 mmol) chloro-(2-isopropyl-4-(4-tert-butyl-phenyl)-1H-inden-1-yl)-dimethyl-silane dissolved in 20 ml diethyl ether was added drop-wise. After addition was complete, the flask was allowed to warm to room temperature and stirring was continued for 5 h, then poured into a saturated solution of ammonium chloride. The organic fraction was collected with a 30% dichloromethane/70% hexane solution, washed with 2N HCl, saturated bicarbonate, water, then dried over magnesium sulfate. The reaction product was filtered, then solvents removed in vacuo. Yield: 11.92 g (92%) light orange powder.

reactant | 3-(4-tert-Butyl-phenyl)-2,5-dimethyl-4H-cyclopenta[b]thiophene | 20 mmol, 5.64 g | C(C)(C)(C)C1=CC=C(C=C1)C=1C2=C(SC1C)C=C(C2)C | C19H22S
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 20 mmol, 8 ml | CCCCCC | C6H14
reactant | copper cyanide | [Cu](C#N)C#N
reactant | chloro-(2-isopropyl-4-(4-tert-butyl-phenyl)-1H-inden-1-yl)-dimethyl-silane | 20 mmol, 7.66 g | Cl[Si](C)(C)C1C(=CC2=C(C=CC=C12)C1=CC=C(C=C1)C(C)(C)C)C(C)C | C24H31ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | [3-(4-tert-butyl-phenyl)-2,5-dimethyl-6H-cyclopenta[b]thiophen-6-yl]-[4-(4-tert-butyl-phenyl)-2-isopropyl-1H-inden-1-yl]-dimethyl-silane | C(C)(C)(C)C1=CC=C(C=C1)C=1C2=C(SC1C)C(C(=C2)C)[Si](C)(C)C2C(=CC1=C(C=CC=C21)C2=CC=C(C=C2)C(C)(C)C)C(C)C | C43H52SSi
